US06140320
Part D: 1,5-Dihydro-7-fluoro-5-isopropylethynyl-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one
To a stirred 0° solution of 210 mg of 6-Amino-3-fluoro-α-isopropylethynyl-α-(trifluoromEthyl)benzyl alcohol in 20 mL of dry ether was added 120 mL of dry pyridine and 0.080 mL of bromoacetyl bromide. After 30 min, the reaction mixture was diluted with ether, washed with water and aqueous sodium bicarbonate, dried and evaporated. The residue was dissolved in 20 mL of dry DMF and was treated at room temperature with 33 mg of 100% sodium hydride for 30 min. The reaction was partitioned between ethyl acetate and water and the ethyl acetate layer was washed with brine, dried and evaporated. The crude product was purified by column chromatography over silica gel (elution with ethyl acetate/hexanes 1:2) affording after crystallization from ethyl acetate/hexanes 89 mg of the title compound as colorless crystals: mp 172-173°; Anal. Calcd. for C15H13NO2F4 : C, 57.15; H, 4.17; N, 4.44. Found: C, 57.10; H, 3.98; N, 4.21.

reactant | 6-Amino-3-fluoro-α-isopropylethynyl-α-(trifluoromEthyl)benzyl alcohol | 210 mg | NC1=CC=C(C=C1C(C(F)(F)F)(C#CC(C)C)O)F | C13H13F4NO
reactant | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 0.080 mL | BrCC(=O)Br | C2H2Br2O
reactant | ether | 20 mL | CCOCC | C4H10O
product | 1,5-Dihydro-7-fluoro-5-isopropylethynyl-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one | FC=1C=CC2=C(C(OCC(N2C#C)=O)(C(F)(F)F)C(C)C)C1 | C15H13F4NO2
